US04537897
1.22 g of dicyclohexylcarbodiimide and a few crystals of 4-dimethylamino-pyridine were added at 0° C. to a solution of 900 mg of (1R,trans) 2,2-dimethyl-3-(1,2-propadienyl)cyclopropane-carboxylic acid in 20 ml of methylene chloride and the mixture was stirred at 0° C. for 15 minutes. A solution of 1.23 g of 5-benzyl-3-furyl-methanol in 7 ml of methylene chloride was added to the mixture which was stirred at 20° C. for 24 hours and was filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with a 3-7 petroleum ether (b.p.=35° to 70° C.)-benzene mixture and then a 7-3 petroleum ether (b.p.=35° to 70° C.)-benzene mixture yielded 825 mg of 5-benzyl-3-furyl-methyl (1R,trans) 2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane-carboxylate with a specific rotation of [α]D20 =-24° (c= 0.6% in chloroform).

reactant | dicyclohexylcarbodiimide | 1.22 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (1R,trans) 2,2-dimethyl-3-(1,2-propadienyl)cyclopropane-carboxylic acid | 900 mg | CC1([C@@H]([C@H]1C=C=C)C(=O)O)C | C9H12O2
reactant | 5-benzyl-3-furyl-methanol | 1.23 g | C(C1=CC=CC=C1)C1=CC(=CO1)CO | C12H12O2
catalyst | 4-dimethylamino-pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 5-benzyl-3-furyl-methyl (1R,trans) 2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane-carboxylate | 825 mg | CC1([C@@H]([C@H]1C=C=C)C(=O)OCC1=COC(=C1)CC1=CC=CC=C1)C | C21H22O3
